US07696223B2
b) 4-Hydroxy-1-methyl-9-phenyl-9H-beta-carboline-3-carboxylic acid ethyl ester
A mixture of 1-bromo-4-hydroxy-9-phenyl-9H-b-carboline-3-carboxylic acid ethyl ester (78 mg, 0.19 mmol), tetramethyltin (37 mg, 0.21 mmol), and Pd(PPh3)2Cl2 (6.7 mg, 0.0095 mmol) in DMF (1 mL) was stirred at 120° C. for 50 min. The mixture was then diluted with EtOAc, washed with water and saturated NaCl aqueous solution, respectively; the EtOAc phase was dried over anhydrous sodium sulfate, concentrated, and the residue was purified by column to give a white solid, the desired title compound. The title compound, ESI MS (m/z): 347 (M+H+).

reactant | 1-bromo-4-hydroxy-9-phenyl-9H-b-carboline-3-carboxylic acid ethyl ester | 0.19 mmol, 78 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C1=CC=CC=C1)Br | C20H15BrN2O3
reactant | tetramethyltin | 0.21 mmol, 37 mg | C[Sn](C)(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.0095 mmol, 6.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxy-1-methyl-9-phenyl-9H-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C1=CC=CC=C1)C | C21H18N2O3
